US09278944B2
To a solution of 4-chloro-3,5-dimethoxybenzaldehyde (1.0 g) in tetrahydrofuran (20 mL) was added dropwise a 3M solution of methylmagnesium bromide in diethyl ether (1.83 mL) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour. Then, thereto was added aqueous ammonium chloride solution under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated saline, and then dried over magnesium sulfate and concentrated under reduced pressure to give a crude product of 1-(4-chloro-3,5-dimethoxyphenyl)ethanol [REx(22-2)] (1.23 g) as a colorless powder.

reactant | 4-chloro-3,5-dimethoxybenzaldehyde | 1.0 g | ClC1=C(C=C(C=O)C=C1OC)OC | C9H9ClO3
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 1.83 mL | C(C)OCC | C4H10O
product | 1-(4-chloro-3,5-dimethoxyphenyl)ethanol | 1.23 g | ClC1=C(C=C(C=C1OC)C(C)O)OC | C10H13ClO3
